US05681958
2-(Bromoacetamido)-5-fluorobenzoic Acid
A solution of 2-amino-5-fluorobenzoic acid (15 g, 96.6 mmol) in dry DMF (35 mL) and dioxane (35 mL) was cooled to 0° C. Bromoacetylbromide (8.43 mL, 96.6 mmol) was added dropwise at 0° C. over a 40 min period, and the reaction mixture was left overnight at room temperature. The reaction mixture was cooled to 0° C., and diluted slowly with water (300 mL). The precipitate which formed was collected washed with 5% HBr (50 mL) and water, and dried, to afford 25.43 g (95.1%) of the title compound as a white solid, mp 191.2°-191.8° C.; 1H NMR (acetone-d6) δ 11.60 (s, 1H), 8.71 (dd, J=5.2, J=9.2, 1H), 7.80 (dd, J=3.2, J=9.6, 1H), 7.48-7.43 (m, 1H), 4.18 (s, 2H); 13C NMR (acetone-d6) δ 168.80, 165.71, 158.37 (d, J=241.9), 138.56, 122.78 (d, J=7.8), 122.70, 122.06 (d, J=21.9), 117.98 (d, J=24.0), 30.45; MS (EI, m/z) 277 (M+).

reactant | 2-amino-5-fluorobenzoic acid | 96.6 mmol, 15 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | Bromoacetylbromide | 96.6 mmol, 8.43 mL | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | water | 300 mL | O | H2O
product | 2-(Bromoacetamido)-5-fluorobenzoic Acid | 25.43 g, 95.1% | BrCC(=O)NC1=C(C(=O)O)C=C(C=C1)F | C9H7BrFNO3
